US04562135
A suspension of 1,4-diaminoanthraquinone-2,3-dicarboximide (15.0 parts) and 6-aminopropanol (28.6 parts) in methoxyethanol (200.0 parts) was heated at 120° C. for 6 hours. The reaction mixture was cooled to room temperature, followed by cooling in ice for several hours. Thereafter the resulting mixture was filtered and washed with methanol (600 parts). The product obtained was dried in vacuo for 8 hours at 45° C. yielding N-(6'-hydroxyhexyl)1,4-diaminoanthraquinone-2,3-dicarboximide (17.1 parts, 83%); m.p.: 210°-211° C.

reactant | 1,4-diaminoanthraquinone-2,3-dicarboximide | NC1=C2C(=C(C=3C(C4=CC=CC=C4C(C13)=O)=O)N)C(NC2=O)=O | C16H9N3O4
solvent | methoxyethanol | COC(C)O | C3H8O2
product | N-(6'-hydroxyhexyl)1,4-diaminoanthraquinone-2,3-dicarboximide | 83% | OCCCCCCN1C(=O)C2=C(C=3C(C4=CC=CC=C4C(C3C(=C2C1=O)N)=O)=O)N | C22H21N3O5
